startup
* Exploratory LMR51430XDDCR behavioral simulation; not qualification.
.include ../sources/model/LMR51430XDDCR_datasheet_approx.lib
VIN in 0 PWL(0 0 10u 15 12m 15)
R_SOURCE in vin_node 100m
C_IN vin_node 0 10u
V_LOAD out load 0
R_LOAD load 0 6.629864253
R_ESR out cap 5m
C_OUT cap 0 44u
C_HF out 0 100n
L_OUT sw l_out 5.6u
R_DCR l_out out 8.5m
R_FBTOP out fb 100k
R_FBBOT fb 0 22.1k
C_BOOT boot sw 100n
X_U1 vin_node sw 0 fb vin_node boot LMR51430XDDCR
.save time v(out) v(in) v(vin_node) i(VIN) i(V_LOAD) v(fb) v(sw) v(cap) v(x_u1.ref) v(x_u1.ctrl) v(x_u1.ipk) v(x_u1.gh) v(x_u1.gl) i(L_OUT)
.options method=gear reltol=1e-4 abstol=1e-9 vntol=1e-6
.temp 25
.tran 20n 12m 0 20n uic
.end
