* LMR51430 native startup readiness capture; development only.
* Isolated protocol buck test: ideal VIN ramp 0 -> 15 V in 1 ms,
* EN tied to VIN, voltage-compliant 0.5 A load.
.include ./model.lib
.param VINSET=15 CIN=10u COUT=44u LVAL=5.6u
VIN in 0 PWL(0 0 1m {VINSET} 21m {VINSET})
C_IN in 0 {CIN}
LOAD out load 0
B_LOAD load 0 I={0.5*max(0,min(1,v(out)/0.1))}
R_ESR out cap 5m
C_OUT cap 0 {COUT}
C_HF out 0 100n
L_OUT sw l_out {LVAL}
R_DCR l_out out 10m
R_FBTOP out fb 100k
R_FBBOT fb 0 22.1k
C_BOOT boot sw 100n
V_GND0 GND0 0 0
X_U3 in sw GND0 fb in boot LMR51430XDDCR
.options method=gear reltol=1e-4 abstol=1e-9 vntol=1e-6
.temp 25
.tran 20n 21m 0 20n uic
.control
set filetype=binary
run
meas tran load_final AVG i(LOAD) FROM=20m TO=21m
meas tran vout_final AVG v(out) FROM=20m TO=21m
meas tran vin_ramp MAX v(in) FROM=0 TO=1m
write waveform.raw time v(out) v(in) i(VIN) i(LOAD)
quit
.endc
.end
